US04028404
Cyclopropyl m-tolyl ketone
m-Bromotoluene (34.2 g) in dry ether (120 ml) was added dropwise to magnesium turnings (4.8 g) in dry ether (100 ml). The heat of reaction maintained the mixture to boiling under reflux during the addition and the mixture was heated under reflux for a further hour. The mixture was cooled to 0°, dry cadmium chloride (19.6 g) was added and the temperature allowed to rise to 20° C. After 1 hour, cyclopropanecarbonyl chloride (20.8 g) in dry ether (50 ml) was added dropwise and the mixture was heated under reflux for 4 hours, cooled to 0° and treated with 2 N hydrochloric acid. The ether layer was separated, washed with aqueous sodium bicarbonate (3× 100 ml., 8%) and with water, dried over magnesium sulphate, filtered and evaporated. The residue was distilled under reduced pressure and the fraction b.p. 86°-90°/0.4 mm was collected.

reactant | m-Bromotoluene | 34.2 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | magnesium | 4.8 g | [Mg] | Mg
reactant | cyclopropanecarbonyl chloride | 20.8 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ether | 120 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | cadmium chloride | 19.6 g | [Cl-].[Cd+2].[Cl-]
product | Cyclopropyl m-tolyl ketone | C1(=CC(=CC=C1)C(=O)C1CC1)C | C11H12O
